US09120823B2
To a mixture of 4-iodo-2-nitro-phenyl amine (2.0 g), 60% sodium hydride (oil) (330 mg), and DMF (20 ml) was added dropwise iodomethane (470 μL) while ice-cooling. The reaction mixture was heasted to room temperature, and then stirred for 2 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give (4-iodo-2-nitro-phenyl)-methyl-amine (2.0 g).

reactant | 4-iodo-2-nitro-phenyl amine | 2.0 g | IC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5IN2O2
reactant | sodium hydride | 330 mg | [H-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | iodomethane | 470 μL | IC | CH3I
solvent | water | O | H2O
product | (4-iodo-2-nitro-phenyl)-methyl-amine | 2.0 g | IC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C7H7IN2O2
